US06797718B2
Ammonium acetate (25 g) and 2,6,7-trimethyl-4-phenoxy-1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]pyridine (2.50 g, 5.80 mmol) were combined and heated at 160° C. in a sealed tube for 2 days. The reaction mixture was cooled to ambient temperature and diluted with water (100 mL). Sodium hydroxide (15%) was added and the mixture was extracted with chloroform (2×150 mL). The combined extracts were dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with 2% methanol in chloroform) followed by recrystallization from methanol/dichloromethane/hexanes to provide 2,6,7-trimethyl-1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]pyridin-4-amine as an off white powder, m.p. 181-183° C.

reactant | Ammonium acetate | 25 g | C(C)(=O)[O-].[NH4+]
reactant | 2,6,7-trimethyl-4-phenoxy-1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]pyridine | 5.80 mmol, 2.50 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCCCCSC1=CC=CC=C1 | C26H29N3OS
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 2,6,7-trimethyl-1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]pyridin-4-amine | CC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCCCCSC1=CC=CC=C1 | C20H26N4S
